US04464300
100 g of 2-fluorodiphenylmethane are slowly added dropwise to a solution of sodiuum amide which has been prepared from 500 ml of liquid ammonia, 0.22 g of iron (III) nitrate and 13.2 g of sodium. After 10 minutes, a solution of 40.75 g of 3-bromopropionic acid in 500 ml of ether is added dropwise. After a further 15 minutes, the ammonia is allowed to distill off. The crystallized-out sodium salt of 4-(2-fluorophenyl)-4-phenylbutyric acid is filtered off and washed with ether. The free acid is obtained by treating the sodium salt with dilute hydrochloric acid, extracting the mixture with ether and evaporating the ethereal solution. There is obtained 4-(2-fluorophenyl)-4-phenylbutyric acid of melting point 105°.

reactant | 2-fluorodiphenylmethane | 100 g | C1=CC=C(C=C1)CC2=CC=CC=C2F | C13H11F
reactant | ammonia | N | H3N
reactant | sodium | 13.2 g | [Na] | Na
reactant | 3-bromopropionic acid | 40.75 g | BrCCC(=O)O | C3H5BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 500 ml | CCOCC | C4H10O
catalyst | iron (III) nitrate | 0.22 g | [N+](=O)([O-])[O-].[Fe+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | 4-(2-fluorophenyl)-4-phenylbutyric acid | FC1=C(C=CC=C1)C(CCC(=O)O)C1=CC=CC=C1 | C16H15FO2
